US08912210B2
Step A: Ethyl 4-cyano-4-(2,3-difluorophenyl)butanoate
To a mixture of (2,3-difluorophenyl)acetonitrile (40.5 g, 265 mmol), ethyl acrylate (24 mL, 220 mmol), and hydroquinone (50 mg, 0.45 mmol) was added KOH (2 M in MeOH, 2.0 mL, 4.0 mmol) and the resulting mixture was heated at 160° C. for 16 h and then allowed to cool to ambient temperature. The crude mixture was purified by silica gel chromatography, eluting with a gradient of hexanes:EtOAc—100:0 to 50:50, to give the title compound. MS: m/z=207.9 (M−OEt).

reactant | (2,3-difluorophenyl)acetonitrile | 265 mmol, 40.5 g | FC1=C(C=CC=C1F)CC#N | C8H5F2N
reactant | ethyl acrylate | 220 mmol, 24 mL | C(C=C)(=O)OCC | C5H8O2
reactant | hydroquinone | 0.45 mmol, 50 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | KOH | 4.0 mmol, 2 M, 2.0 mL | [OH-].[K+]
product | Ethyl 4-cyano-4-(2,3-difluorophenyl)butanoate | C(#N)C(CCC(=O)OCC)C1=C(C(=CC=C1)F)F | C13H13F2NO2
